US08563548B2
To a solution of 1,3-dimethoxybenzene (2 ml, 15.30 mmol) in anhydrous THF (35 ml) at 0° C., nBuLi (6.2 ml, 15.50 mmol) is added to the dropping funnel for 5 min. The reaction medium is stirred at room temperature for 3.5 h, then 2-bromochlorobenzene (1.6 ml, 13.70 mmol) is added by syringe, dropwise, at 0° C., for 30 min. After 15 min of stirring, the reaction medium is cooled to −78° C. and nBuLi (6.20 ml, 15.50 mmol) is added to the dropping funnel dropwise for 5 min. After 30 min, chlorodicyclohexylphosphine (3.03 ml, 13.70 mmol) is added. The reaction medium is maintained at −78° C. for 1 h, under rapid stirring (mechanical stirring). After returning to room temperature, the precipitate obtained is filtered on a fritted disc containing silica topped with a layer of cellulose acetate, with 600 ml ethyl acetate. The solvents are evaporated with a rotary evaporator, and the orange oil obtained is recrystallized in acetone to obtain S-Phos ligand in the form of white crystals with a yield of 36% (1.22 g, 2.97 mmol).

reactant | 1,3-dimethoxybenzene | 15.30 mmol, 2 ml | COC1=CC(=CC=C1)OC | C8H10O2
reactant | nBuLi | 15.50 mmol, 6.2 ml | [Li]CCCC
reactant | 2-bromochlorobenzene | 13.70 mmol, 1.6 ml | BrC1=C(C=CC=C1)Cl | C6H4BrCl
reactant | nBuLi | 15.50 mmol, 6.20 ml | [Li]CCCC
reactant | chlorodicyclohexylphosphine | 13.70 mmol, 3.03 ml | ClP(C1CCCCC1)C1CCCCC1 | C12H22ClP
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | S-Phos | yield of 36% | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
